US04310467
To a solution of 860 mg (2.0 mmol) of (20S)-20-methylpregna-5,16-diene-1α,3β,21-triol 1,3-diacetate in 50 ml of absolute ethanol was added 89 mg of 5% platinum on charcoal. The suspension was stirred under a hydrogen atmosphere at 23° until (2 hr.) the hydrogen uptake was 48 ml (theory 48.8 ml). The catalyst was removed by filtration (several filtrations were necessary to remove colloidal charcoal) through diatomaceous earth and was washed several times with methylene chloride. The filtrate was evaporated under reduced pressure, and the residue, 835 mg (97%), was recrystallized from 20 ml of hexane (cooled to -5°) to yield 746 mg (86%) of (20S)-20-methylpregn-5-ene-1α,3β,21-triol 1,3-diacetate as white crystals, mp 133.5°-134.5°.

reactant | (20S)-20-methylpregna-5,16-diene-1α,3β,21-triol 1,3-diacetate | 2.0 mmol, 860 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC=C([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H38O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | platinum on charcoal | 89 mg | [Pt] | Pt
product | (20S)-20-methylpregn-5-ene-1α,3β,21-triol 1,3-diacetate | 746 mg, 86% | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CO)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C26H40O5
